US09238640B2
Preparation of 1-(2-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)ethyl)pyrrolidine-2,5-dione
To a solution of 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (0.50 g, 1.35 mmol) in anhydrous THF (20 mL) were added triphenyl phosphine (0.53 g, 2.02 mmol), pyrrolidine-2,5-dione (0.20 g, 2.02 mmol), and N,N-diisopropylethyl amine (0.44 g, 3.38 mmol). To this stirred solution was added diethylazodicarboxylate (0.35 g, 2.02 mmol). The reaction mixture was stirred at room temperature for 8 hours under nitrogen. Ethyl acetate (400 mL) was added. The organic phase was separated, washed with water (100 mL), then brine (100 mL), and dried over anhydrous Na2SO4. The solvent was removed under reduced pressure. The crude material was purified by the Simpliflash system (4:96 methanol:CH2Cl2 as eluent) to give the title compound as a white solid. Yield: 0.3 g. (49%). 1H NMR (400 MHz, CDCl3): δ 9.30 (br s, 1H), 7.66 (s, 2H), 6.82 (d, J=2.4 Hz, 1H), 6.46 (d, J=1.6 Hz, 1H), 3.99 (s, 3H), 3.97 (s, 3H), 3.92 (s, 4H), 2.78 (s, 4H), 2.31 (s, 6H). MS (ES) m/z: 452.51 (M+1) (100%).

reactant | 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 1.35 mmol, 0.50 g | OCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C20H22N2O5
reactant | triphenyl phosphine | 2.02 mmol, 0.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyrrolidine-2,5-dione | 2.02 mmol, 0.20 g | N1C(CCC1=O)=O | C4H5NO2
reactant | N,N-diisopropylethyl amine | 3.38 mmol, 0.44 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diethylazodicarboxylate | 2.02 mmol, 0.35 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)ethyl)pyrrolidine-2,5-dione | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC(=C(OCCN2C(CCC2=O)=O)C(=C1)C)C)=O | C24H25N3O6
